US06093732
Sodium 2-[{8-[3-(3-{[(4-chlorobenzyl)amino]carbonyl}-8-fluoro-4-hydroxy-6-quinolinyl)propoxy]-8-oxooctanoyl}(methyl)amino]-1-ethanesulfonate
To a stirred mixture of 78 mg of N-(4-chlorobenzyl)-8-fluoro-4-hydroxy-6-(3-hydroxypropyl)-3-quinolinecarboxamide from Example No. 110, 27 mg of DMAP, and 0.46 mL of a 0.65 M solution of suleptanic acid triethylammonium salt in acetonitrile, in 1 mL of 1:1 THF-chloroform, was added 38 μL of diisopropylcarbodiimide. The solution was stirred for 18 h, then concentrated under reduced pressure. Flash chromatography of the residue on silica using 5-15% methanol in dichloromethane provided a solid. This was dissolved in chloroform-butanol-methanol, and the solution stirred with saturated aqueous sodium sulfate. The organic phase was filtered through anhydrous sodium sulfate and concentrated under reduced pressure to afford 121 mg of the title compound as a white solid.

reactant | N-(4-chlorobenzyl)-8-fluoro-4-hydroxy-6-(3-hydroxypropyl)-3-quinolinecarboxamide | 78 mg | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)CCCO)F)C=C1 | C20H18ClFN2O3
reactant | triethylammonium | C(C)[NH+](CC)CC
reactant | diisopropylcarbodiimide | 38 μL | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | chloroform butanol methanol | C(Cl)(Cl)Cl.C(CCC)O.CO
catalyst | DMAP | 27 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | THF chloroform | 1 mL | C1CCOC1.C(Cl)(Cl)Cl
product | Sodium 2-[{8-[3-(3-{[(4-chlorobenzyl)amino]carbonyl}-8-fluoro-4-hydroxy-6-quinolinyl)propoxy]-8-oxooctanoyl}(methyl)amino]-1-ethanesulfonate | 121 mg | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)CCCOC(CCCCCCC(=O)N(CCS(=O)(=O)[O-])C)=O)F)C=C1.[Na+] | InChI=1S/C31H37ClFN3O8S.Na/c1-36(14-16-45(41,42)43)27(37)8-4-2-3-5-9-28(38)44-15-6-7-22-17-24-29(26(33)18-22)34-20-25(30(24)39)31(40)35-19-21-10-12-23(32)13-11-21;/h10-13,17-18,20H,2-9,14-16,19H2,1H3,(H,34,39)(H,35,40)(H,41,42,43);/q;+1/p-1
